US05908944
5.78 ml (11 mmol) of a 1.9 molar solution of triethyl aluminum in toluene is added at room temperature to 3.3 g (10 mmol) of 17-acetoxy-5α-androst-1-en-3-one in 15 ml of ethyl acetate and 44.78 mg (0.5 mmol) of copper cyanide (CuCN). It is stirred 12 hours more at 25° C. The reaction solution is hydrolyzed with 1 ml of water and stirred again for 15 minutes. The inorganic solid is filtered off. The solid is washed again with ethyl acetate. After evaporation of the solvent and chromatography of the substance on silica gel with hexane/ethyl acetate as eluent, 1.44 g (39% of theory) of 17-acetoxy-1α-ethyl-5α-androstan-3-one is obtained.

reactant | triethyl aluminum | C(C)[Al](CC)CC
reactant | 17-acetoxy-5α-androst-1-en-3-one | 10 mmol | C(C)(=O)OC1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C=C[C@]3(C)[C@H]1CC2)=O | C21H30O3
reactant | copper cyanide | 0.5 mmol, 44.78 mg | [Cu](C#N)C#N
reactant | water | 1 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 17-acetoxy-1α-ethyl-5α-androstan-3-one | 1.44 g, 39% | C(C)(=O)OC1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C[C@@H]([C@]3(C)[C@H]1CC2)CC)=O | C23H36O3
